US09126974B2
3-(((2,2-difluorocyclopropyl)methyl)thio)propanoyl chloride
In a 3 L 3 neck round bottomed-flask equipped with an overhead stirrer, a temperature probe, and addition funnel and an nitrogen inlet was charged with 3-(((2,2-difluorocyclopropyl)methyl)thio)propanoic acid (90.0 g, 459 mmol) that was immediately taken up in dichloromethane (140 mL) with stirring. At room temperature, thionyl chloride (170 mL, 2293 mmol) in dichloromethane (100 mL) was added drop-wise with stirring. The reaction mixture was heated to 40° C. and heated for 2 hours. The reaction was determined to be complete by 1H NMR (An aliquot of the reaction mixture was taken, and concentrated down via rotary evaporator). The reaction was allowed to cool to room temperature and the mixture was transferred to a dry 3 L round-bottom and concentrated via the rotary evaporator. This resulted in 95 g of a honey-colored oil. The contents were gravity filtered through paper and the paper rinsed with diethyl ether (10 mL). The rinse was added to the flask. This gave a clear yellow liquid. The liquid was placed on a rotary evaporator to remove the ether. This gave 92.4 g of a yellow oil. The oil was Kugelrohr distilled (bp 100-110° C./0.8-0.9 mm Hg) to provide the title compound as a colorless oil (81.4 g, 81%): 1H NMR (400 MHz, CDCl3) δ 3.27-3.12 (m, 2H), 2.89 (t, J=7.1 Hz, 2H), 2.67 (ddd, J=6.8, 2.6, 1.0 Hz, 2H), 1.78 (ddq, J=13.0, 11.3, 7.4 Hz, 1H), 1.64-1.46 (m, 1H), 1.09 (dtd, J=13.2, 7.7, 3.7 Hz, 1H).

reactant | 3-(((2,2-difluorocyclopropyl)methyl)thio)propanoic acid | 459 mmol, 90.0 g | FC1(C(C1)CSCCC(=O)O)F | C7H10F2O2S
reactant | thionyl chloride | 2293 mmol, 170 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(((2,2-difluorocyclopropyl)methyl)thio)propanoyl chloride | 95 g | FC1(C(C1)CSCCC(=O)Cl)F | C7H9ClF2OS
